US07842701B2
4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoic acid
A mixture of methyl 4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoate (18.9 g), methanol (50 ml), tetrahydrofuran (150 ml) and a 1N aqueous sodium hydroxide solution (80 ml) was stirred at room temperature for 1 night, heated under reflux for 12 hours. The solvent was distilled off under reduced pressure, the reaction mixture was adjusted to about pH 6 by adding 1N hydrochloric acid and 5% citric acid. The precipitated solid was collected by filtration, washed and dried to obtain the target compound (18.0 g).

reactant | methyl 4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoate | 18.9 g | C(C)(C)OC1=CC(=C(C(=O)OC)C=C1OC)NCC1=CC=C(C=C1)OC | C20H25NO5
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 80 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoic acid | 18.0 g | C(C)(C)OC1=CC(=C(C(=O)O)C=C1OC)NCC1=CC=C(C=C1)OC | C19H23NO5
